US07011838B2
Using 0.22 g of 4-(methylthio)benzyl bromide, 3 ml of N,N-dimethylformamide, 0.05 g of sodium hydride (60% in oil), and 0.17 g of (3,3,3-trifluoropropyl)malononitrile, and according to the process described in the Production Example 26, there was obtained 0.15 g of 2-(4-(methylthio)benzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (34)).

reactant | 4-(methylthio)benzyl bromide | 0.22 g | CSC1=CC=C(CBr)C=C1 | C8H9BrS
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | (3,3,3-trifluoropropyl)malononitrile | 0.17 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(4-(methylthio)benzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.15 g, Yield: 50% | CSC1=CC=C(CC(C#N)(C#N)CCC(F)(F)F)C=C1 | C14H13F3N2S
